US07135600B2
(v) {[(1R)-2-Bromo-1-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)ethyl]oxy}(triethyl)silane
Triethylsilyl chloride (205 g) was added dropwise to a stirred mixture of (1R)-2-Bromo-1-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)ethanol (350 g) and imidazole (108.5 g) in DMF (875 ml) at 5° C. Upon complete addition the mixture was warmed to 15° C. and stirred, at this temperature for 1 h. N-hexane (3500 ml) was then added to the mixture which was washed with water (3×1750 ml). The organic layer was dried over anhydrous MgSO4 before being filtered and concentrated under reduced pressure to give the title compound (488.6 g) as an oil, LC RT=7.97 min, δ (DMSO-d6) 7.18 (1H, d, J 8.2 Hz), 7.10 (1H, s), 6.75 (1H, d, J 8.2 Hz), 4.83 (1H, m), 4.78 (2H, d, J 6.9 Hz), 3.55 (2H, m), 1.45 (6H, s), 0.84 (9H, t, J 8.1 Hz), 0.51 (6H, m).

reactant | Triethylsilyl chloride | 205 g | C(C)[Si](CC)(CC)Cl | C6H15ClSi
reactant | (1R)-2-Bromo-1-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)ethanol | 350 g | BrC[C@H](O)C1=CC2=C(OC(OC2)(C)C)C=C1 | C12H15BrO3
reactant | imidazole | 108.5 g | N1C=NC=C1 | C3H4N2
solvent | DMF | 875 ml | CN(C)C=O | C3H7NO
product | {[(1R)-2-Bromo-1-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)ethyl]oxy}(triethyl)silane | 488.6 g | BrC[C@@H](C1=CC2=C(OC(OC2)(C)C)C=C1)O[Si](CC)(CC)CC | C18H29BrO3Si
